US07977335B2
6-Bromo-6-isothiocyanatoquinoxaline
The crude hydrobromide product described above (4.27 g, 14.0 mmol) was dissolved in 60 ml of water; thiophosgene (Aldrich, 1.28 ml, 16.8 mmol) was added in small portions with vigorous stirring. After 2 hours, the red color of the solution was discharged. The solid formed was filtered off and washed thoroughly with water. After drying in vacuo at 25° C., 3.38 g of brick red crystals were obtained, m.p. 157-8° C., representing a yield of 90%. A portion of this material was further purified by column chromatography to give white crystals, m.p. 157-8° C. Using various analytical procedures, these crystals were determined to be 5-bromo-6-isothiocyanatoquinoxaline.

reactant | hydrobromide | Br | BrH
reactant | thiophosgene | 16.8 mmol, 1.28 ml | C(=S)(Cl)Cl | CCl2S
reactant | 5-bromo-6-isothiocyanatoquinoxaline | BrC1=C2N=CC=NC2=CC=C1N=C=S | C9H4BrN3S
solvent | water | 60 ml | O | H2O
product | 6-Bromo-6-isothiocyanatoquinoxaline | yield of 90% | BrC1(CC=2N=CC=NC2C=C1)N=C=S | C9H6BrN3S
